US09278973B2
To a solution of hydrazinecarboximidamide carbonic acid salt (15.6 g, 114.61 mmol) in pyridine (100 ml) was added 3,4-dichlorobenzoyl chloride (20 g, 95.48 mmol), and the resulting mixture was stirred overnight at room temperature, then concentrated under vacuum to give a residue, which was dissolved in water (30 ml) and adjusted to pH 12 with sodium hydroxide (aq., sat). The product precipitated and was collected by filtration and dried in an oven under reduced pressure to afford 2-(3,4-dichlorobenzoyl)hydrazinecarboximidamide as a light yellow solid (9.5 g, 40%).

reactant | hydrazinecarboximidamide carbonic acid salt | 114.61 mmol, 15.6 g | C(O)(O)=O.N(N)C(N)=N
reactant | 3,4-dichlorobenzoyl chloride | 95.48 mmol, 20 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 30 ml | O | H2O
product | 2-(3,4-dichlorobenzoyl)hydrazinecarboximidamide | 9.5 g, 40% | ClC=1C=C(C(=O)NNC(N)=N)C=CC1Cl | C8H8Cl2N4O
